US09371292B2
6-nitro-4-(3-chloro-4-fluorophenylamino)-7-fluoro-quinazoline (1 eq.) and morpholine-propanol (1.5 eq.) were dissolved in DMSO (10 ml), the solution was stirred for 5 mins with a water bath. A solution of potassium tert-butoxide (3.0 eq.) in DMSO (5 ml) was added slowly to the solution mentioned-above in drops, the mixture was stirred at room temperature for further 30 mins. After the reaction finished, the mixture was diluted with 100 ml water and pH was adjusted to neutral with concentrated hydrochloric acid, then stirred for 30 mins, large amount of yellow solid was precipitated, then filtering, the filter cake was washed with water twice and dried to give yellow solid of N-(3-chloro-4-fluorophenyl)-7-(3-morpholinopropoxy)-6-nitroquinazolin-4-amine (yield 90%).

reactant | 6-nitro-4-(3-chloro-4-fluorophenylamino)-7-fluoro-quinazoline | 1 eq. | [N+](=O)([O-])C=1C=C2C(=NC=NC2=CC1F)NC1=CC(=C(C=C1)F)Cl | C14H7ClF2N4O2
reactant | morpholine-propanol | 1.5 eq. | N1(CCOCC1)CCCO | C7H15NO2
reactant | potassium tert-butoxide | 3.0 eq. | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | N-(3-chloro-4-fluorophenyl)-7-(3-morpholinopropoxy)-6-nitroquinazolin-4-amine | yield 90% | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCN1CCOCC1 | C21H21ClFN5O4
